US04296120
N-(1-Methyldecyl)-3-(3-Aminophenyl)-2-butenamide
The N-(1-methyldecyl)-3-(3-nitrophenyl)-2-butenamide from Preparation 23 (6.5 g.) was reduced with iron powder (5.0 g.) in glacial acetic acid (80 ml.) in a manner analogously to Preparation 27. After chromatography, 4.5 g. of the title compound was obtained, as an amber oil.

reactant | N-(1-methyldecyl)-3-(3-nitrophenyl)-2-butenamide | CC(CCCCCCCCC)NC(C=C(C)C1=CC(=CC=C1)[N+](=O)[O-])=O | C21H32N2O3
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 5.0 g | [Fe] | Fe
product | N-(1-Methyldecyl)-3-(3-Aminophenyl)-2-butenamide | CC(CCCCCCCCC)NC(C=C(C)C1=CC(=CC=C1)N)=O | C21H34N2O
